US06150351
To a mixture of potassium benzhydryl 7β-(2-phenylacetamido)-3-[4-(4-carboxyphenyl)thiazol-2-yl]thio-3-cephem-4-carboxylate (450 mg), anisole (0.45 ml) and dichloromethane (1.35 ml) was added trifluoroacetic acid (0.9 ml) at 15° C. After stirring at room temperature for 1.5 hours, the solution was poured into diisopropyl ether. The resulting precipitate was collected by filtration, added to a mixture of tetrahydrofuran (10 ml) and water (15 ml), and the solution was adjusted to pH 7.2 with an aqueous sodium hydrogen carbonate. The separated aqueous solution was adjusted to pH 3.0 with 1N-hydrochloric acid and extracted with tetrahydrofuran. The tetrahydrofuran solution was washed with saturated sodium chloride solution, dried over magnesium sulfate and evaporated under reduced pressure. Ethyl acetate was added to the residue and the resulting powder was collected by filtration and dried in vacuo to give 7β-(2-phenylacetamido)-3-[4-(4-carboxyphenyl)thiazol-2-yl]thio-3-cephem-4-carboxylic acid (75 mg).

reactant | potassium benzhydryl 7β-(2-phenylacetamido)-3-[4-(4-carboxyphenyl)thiazol-2-yl]thio-3-cephem-4-carboxylate | 450 mg | C1(=CC=CC=C1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C=2SC=C(N2)C2=CC=C(C=C2)C(=O)O)C(=S)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O.[K]
reactant | anisole | 0.45 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | 0.9 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | dichloromethane | 1.35 ml | ClCCl | CH2Cl2
product | 7β-(2-phenylacetamido)-3-[4-(4-carboxyphenyl)thiazol-2-yl]thio-3-cephem-4-carboxylic acid | 75 mg | C1(=CC=CC=C1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C=2SC=C(N2)C2=CC=C(C=C2)C(=O)O)C(=S)O)C1=O | C25H19N3O5S3
